US05670697
5-Bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene (10.0 g), trimethyl orthoacetate (48.0 g) and isobutyric acid (0.29 g) were charged to a round-bottomed flask fitted with: nitrogen inlet/bubbler, thermometer and Dean and Stark received packed with 5 A molecular seives. The mixture was heated with agitation to reflux and distillates collected until reaction mass temperature increased to 111° C. (ca. 1 hr). Once the reaction was complete, the residual trimethyl orthoacetate was removed by distillation under vacuum (ca. 50° C. @50 mmHg) to give the product, 5-bromo-5-chloro-4-(1,1-dimethoxyethoxy)-2-methyl-6,6,6-trifluorohex-2-ene, as an orange oil (10.9 g, 85% yield).

reactant | 5-Bromo-5-chloro-4-hydroxy-2-methyl-6,6,6-trifluorohex-2-ene | 10.0 g | BrC(C(C=C(C)C)O)(C(F)(F)F)Cl | C7H9BrClF3O
reactant | trimethyl orthoacetate | 48.0 g | C(C)(OC)(OC)OC | C5H12O3
reactant | isobutyric acid | 0.29 g | C(C(C)C)(=O)O | C4H8O2
product | 5-bromo-5-chloro-4-(1,1-dimethoxyethoxy)-2-methyl-6,6,6-trifluorohex-2-ene | BrC(C(C=C(C)C)OC(C)(OC)OC)(C(F)(F)F)Cl | C11H17BrClF3O3
